.subckt INV_D1 A Y VDD VSS
MN0 Y A VSS VSS sg13_lv_nmos w=6.4e-07 l=1.3e-07 ad=1.984e-13 as=1.984e-13 pd=1.9e-06 ps=1.9e-06 ng=1 
MP0 Y A VDD VDD sg13_lv_pmos w=9.8e-07 l=1.3e-07 ad=3.038e-13 as=3.038e-13 pd=2.58e-06 ps=2.58e-06 ng=1 
.ends
